US05808062
N-(4-Hydroxy-2-oxo-6-phenyl-2H-pyran-3-yl)-2-naphthaleneacetamide:
The title compound was prepared by Method E using 3-amino-4-hydroxy-6-phenyl-2H-pyran-2-one hydrochloride (0.200 g, 0.835 mmol), THF (9 mL), 60% sodium hydride (0.037 mL, 0.918 mmol), oxalyl chloride (0.080 mL, 0.918 mmol), 2-naphthalyl acetic acid (0.170 g, 0.918 mmol). m.p. dec. 227° C.; 1H NMR (250 MHz, DMSO-d6) δ 4.17 (s, 2 H), 6.84 (s, 1 H), 7.50 (m, 6 H), 7.83 (m, 4 H), 7.93 (d, 1 H), 8.17 (d, 1 H), 9.58 (s, 1 H).

reactant | 3-amino-4-hydroxy-6-phenyl-2H-pyran-2-one hydrochloride | 0.835 mmol, 0.200 g | Cl.NC=1C(OC(=CC1O)C1=CC=CC=C1)=O
reactant | sodium hydride | 0.918 mmol, 0.037 mL | [H-].[Na+]
reactant | oxalyl chloride | 0.918 mmol, 0.080 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-naphthalyl acetic acid | 0.918 mmol, 0.170 g | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | N-(4-Hydroxy-2-oxo-6-phenyl-2H-pyran-3-yl)-2-naphthaleneacetamide | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)NC(CC1=CC2=CC=CC=C2C=C1)=O | C23H17NO4
